US05728835
4-Nitro-N-(2,4-dimethoxyphenyl)benzamide
Using 2,4-dimethoxyaniline (2.53 g, 16.0 mmol) and 4-nitrobenzoic acid (2.50 g, 14.8 mmol), the procedure of Reference Example 16 was repeated to obtain 3.72 g (91.3%) of the title compound in the form of yellow needle crystals.

reactant | 2,4-dimethoxyaniline | 16.0 mmol, 2.53 g | COC1=C(N)C=CC(=C1)OC | C8H11NO2
reactant | 4-nitrobenzoic acid | 14.8 mmol, 2.50 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 4-Nitro-N-(2,4-dimethoxyphenyl)benzamide | 3.72 g, 91.3% | [N+](=O)([O-])C1=CC=C(C(=O)NC2=C(C=C(C=C2)OC)OC)C=C1 | C15H14N2O5
